* A Collection of Potentiometers
* ==============================
* Barbarach 2021-05-05
* The notable changes: pins numbered as per Alpha and Alps pin numbering.
*     e.g: resistance between 1 and 2 insreases when pot rotated clockwise
*          resistance between 1 and 2 decreases when pot rotated anti-clockwise
* Added pot_alps_a and pot_alps_c models based on Alps datasheet (to the best of my abilities)
*
* based on work by:
* Helmut Sennewald,                          12/23/2003         V1.1
*
*    Models:
*       pot_lin          k*x
*       pot_audio		 x^k
*       pot_alps_a   piecewise linear - audio pot, datasheet
*       pot_alps_c   piecewise linear - negative log pot, datasheet
*    
*
*       1 ____    Set=0 
*             |  
*            | |  2
*            | |<---- Set 0..1
*            | |
*       Rtap | |  Tap 
*            | |
*       3 ____|   Set=1
*
* 
*     RT5 = total resistance
*     Set5 = ratio of travel of the wiper
*     RTAP5 = reference resistance at wiper=Tap
*            It is needed only for pot_plog, pot_nlog and pot_pow.
*            RTAP is measured between pin-3 and wiper.
*     TAP5 = ratio of travel when Rtap is reached
*
*     All pots have this kind of layout unless noted otherwise
* 0.0 -----> 1.0
*        |2
*      __V__
*  1--|_____|--3
*        
*  o--R1-o-R2--o


*--------------------- The Linear Potentiometer ---------------------
*
.SUBCKT pot_lin5 1 2 3
* Parameters: Rt5, set3
.param w=limit(0,set5,1)
*
R1 1 2 {Rt5*(w) + 0.0001}
R2 2 3 {Rt5*(1-w) + 0.0001}
.ENDS

*--------------------- The Audio Potentiometer ---------------------
* 
* It is interesting to know that the power log. curve is a
* good fit to so called "log"-potentiometers, because most of 
* them have not true logarithm dependency in reality.
*
*  RTAP is resistance at travel TAP
*  Example: Rt=10k, R=1k @ 0.5   (half way)
*           RTAP=1k, TAP=0.5
*  RTAP and TAP define a point of the curve resistance versus ratio.
.SUBCKT pot_audio5 1 2 3
.param w=limit(0,set5,1)
*
.param pwrexp=ln(RTAP5/RT5)/ln(TAP5)
.param ratio=w**pwrexp
*
R1 1 2 {Rt5*ratio + 0.001}
R2 2 3 {Rt5*(1 - ratio) + 0.001}
.ENDS

*---------- An audio (log) Potentiometer from ALPS ---------
*
* ALPS shows three/four piecewise linear functions in their datasheet
* for the resistance dependency. (taper 15A from datasheet)
*
.SUBCKT pot_alps_a5 1 2 3
* Parameters: Rt5, Set5
.param w=limit(0,Set5,1)
*
.param ratio=TABLE(w, 0.0,0.0,0.23,0.03,0.65,0.25,0.72,0.4, 
+ 0.95,0.99, 1.0,1.0)
*
R1 1 2 {Rt5*(ratio) + 0.001}
R2 2 3 {Rt5*(1-ratio) + 0.001}
.ENDS


*---------- A reverse-audio (reverse-log) Potentiometer from ALPS ---------
*
* ALPS shows three/four piecewise linear functions in their datasheet
* for the resistance dependency. (taper 15C from datasheet)
*
.SUBCKT pot_alps_c5 1 2 3
* Parameters: Rt5, Set5
.param w=limit(0,Set5,1)
*
.param ratio=TABLE(w, 0.0,1.0,0.05,0.99,0.28,0.4,0.35,0.25,0.77,0.03,1.0,0.0)
*
R1 1 2 {Rt5*(1-ratio) + 0.001}
R2 2 3 {Rt5*(ratio) + 0.001}
.ENDS